US07749992B2
Step 5. Preparation of 5-Oxo-7-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester
Add di-t-butyldicarbonate (0.68 mmol) to a solution of 7-trifluoromethyl-1,2,3,4-tetrahydro-benzo[b]azepin-5-one (0.1 g, 0.44 mmol) in dichloromethane (10 mL). To this solution add dimethylaminopyridine (0.22 mmol) and diisopropyl ethylamine (0.68 mmol). Stir the resulting mixture at room temperature overnight. Remove solvent under vacuum and chromatograph the product over silica gel using ethyl acetate/hexane (5-20%) to elute. This provides the title compound as an oil (0.13 g, 90%): MS (ES+): 330 (M+H).

reactant | di-t-butyldicarbonate | 0.68 mmol | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 7-trifluoromethyl-1,2,3,4-tetrahydro-benzo[b]azepin-5-one | 0.44 mmol, 0.1 g | FC(C1=CC2=C(NCCCC2=O)C=C1)(F)F | C11H10F3NO
reactant | dimethylaminopyridine | 0.22 mmol | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | diisopropyl ethylamine | 0.68 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 5-Oxo-7-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester | 0.13 g, 90% | C(C)(C)(C)OC(=O)N1C2=C(C(CCC1)=O)C=C(C=C2)C(F)(F)F | C16H18F3NO3
